US08445684B2
A solution of 1-(tert-butoxycarbonyl)-4-(2-hydroxyethyl)piperidine (459 mg, 2.0 mmol) in anhydrous DMF (10 mL) was cooled to 0° C., and NaH (60% dispersion in oil, 200 mg, 5 mmol, 2.5 equiv.) was added all at once. Alkoxide formation was effected by stirring at room temperature for 2 h under N2, then 3-picolyl chloride hydrochloride (345 mg, 2.1 mmol, 1.05 equiv.) and tetra-n-butylammonium iodide (7.4 mg, 20 μmol, 0.01 equiv.) were added. The mixture was warmed to 80° C. and stirred at that temperature for 4 h. After cooling to room temperature, H2O was added, and the product was extracted into EtOAc. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by CC (SiO2, EtOAc/hexane 1:1) to afford 1-(tert-butoxycarbonyl)-4-[2-(3-pyridylmethoxy)ethyl]piperidine (574 mg, 80%) after evaporation as a colorless oil. 1H NMR (CDCl3, 400 MHz) δ 8.39 (s, 1H), 8.33 (d, 1H, J=4.8 Hz), 7.54 (d, 1H, J=8.0 Hz), 7.11 (m, 1H), 4.71 (s, 2H), 3.89 (m, 2H), 3.46 (t, 2H, J=6.4 Hz), 2.74 (m, 2H), 1.44 (m, 3H), 1.31 (m, 2H), 1.24 (s, 9H), 0.88 (m, 2H); 13C NMR (CDCl3, 100 MHz) δ 154.6, 149.1, 149.0, 136.2, 133.2, 123.5, 78.9, 59.2, 42.8, 39.0, 32.3, 31.9, 28.2.

reactant | 1-(tert-butoxycarbonyl)-4-(2-hydroxyethyl)piperidine | 2.0 mmol, 459 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | NaH | 5 mmol, 200 mg, 2.5 equiv. | [H-].[Na+]
reactant | 3-picolyl chloride hydrochloride | 2.1 mmol, 345 mg, 1.05 equiv. | Cl.N1=CC(=CC=C1)CCl
reactant | H2O | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammonium iodide | 20 μmol, 7.4 mg, 0.01 equiv. | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(tert-butoxycarbonyl)-4-[2-(3-pyridylmethoxy)ethyl]piperidine | 574 mg, 80% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOCC=1C=NC=CC1 | C18H28N2O3
